US04233231
To a solution of 3 g of trans-1,2-bis(tri-n-butylstannyl) ethylene in 15 ml of dry tetrahydrofuran at -78° C. is added 2.5 ml of 2.1 M n-butyllithium. After allowing the solution to warm to -40° C., the solution is transferred to another flask containing 550 mg of 2 heptanone in 10 ml of tetrahydrofuran. After warming to room temperature, the reaction mixture is poured into saturated aq. ammonium chloride and extracted with hexanes. Concentration of the hexanes provides (E)-1-tri-n-butylstannyl-3-methyl-1-octene-3-ol.

reactant | trans-1,2-bis(tri-n-butylstannyl) ethylene | 3 g | C(CCC)[Sn](\C=C\[Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
reactant | n-butyllithium | 2.1 M, 2.5 ml | C(CCC)[Li]
reactant | heptanone | CC(CCCCC)=O | C7H14O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (E)-1-tri-n-butylstannyl-3-methyl-1-octene-3-ol | C(CCC)[Sn](\C=C\C(CCCCC)(O)C)(CCCC)CCCC | InChI=1S/C9H17O.3C4H9.Sn/c1-4-6-7-8-9(3,10)5-2;3*1-3-4-2;/h2,5,10H,4,6-8H2,1,3H3;3*1,3-4H2,2H3;
